US05716950
Preparation of 4-[4-[4-fluorophenyl-(2-pyridyl)methyl]-1-piperazinyl]butylsulfonic acid:
After a mixture of [4-fluorophenyl-(2-pyridyl)methyl]piperazine (2.71 g), 1,4-butanesultone (4.08 g) and isobutylmethylketone (60 ml) is heated at reflux temperature for 20 hours, precipitated crystals are collected by filtration and recrystallized from ethanol-acetone to give the title compound (2.91 g, 71.5%). mp. 231°-232° C.

reactant | [4-fluorophenyl-(2-pyridyl)methyl]piperazine | 2.71 g | FC1=CC=C(C=C1)C(C1=NC=CC=C1)N1CCNCC1 | C16H18FN3
reactant | 1,4-butanesultone | 4.08 g | C1CCS(=O)(=O)OC1 | C4H8O3S
solvent | isobutylmethylketone | 60 ml | C(C(C)C)C(=O)C | C6H12O
product | 4-[4-[4-fluorophenyl-(2-pyridyl)methyl]-1-piperazinyl]butylsulfonic acid | 2.91 g, 71.5% | FC1=CC=C(C=C1)C(N1CCN(CC1)CCCCS(=O)(=O)O)C1=NC=CC=C1 | C20H26FN3O3S
